US05504085
B. 2-(Ethoxycarbonylhydrazino)-6,7-dichloro-quinoxalin-3(4H)-one
To a solution of 0.58 g (~2.3 mmol) 2,6,7-trichloroquinoxalin-3(4H)-one in 25 ml of acetonitrile was added 0.27 g (~2.6 mmol) of ethyl carbazate. The reaction mixture was refluxed for 3 h. Cooling to 24° C. gave the title compound (0.62 g; 84%) as a precipitate. M.p. >300° C. decomp.

reactant | 2,6,7-trichloroquinoxalin-3(4H)-one | ~2.3 mmol, 0.58 g | ClC1=NC2=CC(=C(C=C2NC1=O)Cl)Cl | C8H3Cl3N2O
reactant | ethyl carbazate | ~2.6 mmol, 0.27 g | C(NN)(=O)OCC | C3H8N2O2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 2-(Ethoxycarbonylhydrazino)-6,7-dichloro-quinoxalin-3(4H)-one | 0.62 g, 84% | C(C)OC(=O)NNC1=NC2=CC(=C(C=C2NC1=O)Cl)Cl | C11H10Cl2N4O3
